US04753936
(b) 1,4-Dihydro-2,6-dimethyl-5-nitro-4-(3-nitrophenyl)pyridine-3-carboxylic acid 4-phenylpiperazide
2.5 g (10 mmol) of crude 2-acetyl-3-(3-nitrophenyl)-2-propenoic acid 4-phenyl-piperazide and 2.5 g (25 mmol) of 2-amino-1-nitro-1-propene are heated in 15 ml of isopropanol at 60° C. for 6 hours. The crude product which has precipitated out is crystallized from isopropanol.

reactant | 2-acetyl-3-(3-nitrophenyl)-2-propenoic acid 4-phenyl-piperazide | 10 mmol, 2.5 g | C1(=CC=CC=C1)N1CCN(CC1)C(C(=CC1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)=O | C21H21N3O4
reactant | 2-amino-1-nitro-1-propene | 25 mmol, 2.5 g | NC(=C[N+](=O)[O-])C | C3H6N2O2
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 1,4-Dihydro-2,6-dimethyl-5-nitro-4-(3-nitrophenyl)pyridine-3-carboxylic acid 4-phenylpiperazide | C1(=CC=CC=C1)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])C)C | C24H25N5O5
